US07253165B2
Synthesis of (R)-(R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxyl]-3-(2-methoxymethyl-pyrrolidin-1-yl)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and (S)-(+)-2-(methoxymethyl)pyrrolidine in ethanol essentially as described above in Example 21. Purity by LC/MS=100%, [M+H]+=401.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | (S)-(+)-2-(methoxymethyl)pyrrolidine | COC[C@H]1NCCC1 | C6H13NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-(R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxyl]-3-(2-methoxymethyl-pyrrolidin-1-yl)-propan-2-ol | FC1=CC2=C(C(=NO2)C2=CC=C(OC[C@@H](CN3[C@H](CCC3)COC)O)C=C2)C=C1 | C22H25FN2O4
